US07452894B2
Isopropyl 2-dimethylamino-6-(2-furyl)-9H-purine-9-acetate (Example 70)
A solution of ethyl 2-chloro-6-(2-furyl)-9H-purine-9-acetate (100 mg, 0.33 mol) in isopropanol (1 mL) was treated with 40% dimethylamine in water, refluxed for 2 h, cooled, poured into water, extracted with EtOAc and the combined organic phase dried (MgSO4), concentrated in vacuo and purified by chromatography [SiO2; Heptane:EtOAc, (1:1)] to give the title compound (20 mg, 19%) as a white solid.

reactant | ethyl 2-chloro-6-(2-furyl)-9H-purine-9-acetate | 0.33 mol, 100 mg | ClC1=NC(=C2N=CN(C2=N1)CC(=O)OCC)C=1OC=CC1 | C13H11ClN4O3
reactant | dimethylamine | CNC | C2H7N
reactant | isopropanol | 1 mL | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | Isopropyl 2-dimethylamino-6-(2-furyl)-9H-purine-9-acetate | 20 mg, 19% | CN(C1=NC(=C2N=CN(C2=N1)CC(=O)OC(C)C)C=1OC=CC1)C | C16H19N5O3
